US07528164B2
2-Amino-4-(5-methyl-pyridin-3-yl)-3-cyano-7-methyl-8,9-dihydro-4H-pyrrolo[2,3-h]chromene
The title compound was prepared from 4-hydroxy-2,3-dihydro-1-methylindole (0.025 g, 0.17 mmol), 5-methyl-pyridine-3-carbaldehyde (0.020 g, 0.17 mmol), and malononitrile (0.011 g, 0.17 mmol) similar to Example 22 to yield 0.017 g (32%) of a white solid. 1H NMR (DMSO-d6): 8.31 (d, J=2.2 Hz, 1H), 8.27 (d, J=1.4 Hz, 1H), 7.37 (m, 1H), 6.71 (dd, J=8.0, 0.83 Hz, 1H), 6.25 (dd, J=8.0 Hz, 1H), 6.22 (brs, 2H), 4.68 (s, 1H), 3.36 (t, J=16.8 Hz, 2H), 2.94 (t, J=16.8 Hz, 2H), 2.70 (s, 3H).

reactant | 4-hydroxy-2,3-dihydro-1-methylindole | 0.17 mmol, 0.025 g | OC1=C2CCN(C2=CC=C1)C | C9H11NO
reactant | 5-methyl-pyridine-3-carbaldehyde | 0.17 mmol, 0.020 g | CC=1C=C(C=NC1)C=O | C7H7NO
reactant | malononitrile | 0.17 mmol, 0.011 g | C(CC#N)#N | C3H2N2
product | 2-Amino-4-(5-methyl-pyridin-3-yl)-3-cyano-7-methyl-8,9-dihydro-4H-pyrrolo[2,3-h]chromene | NC=1OC2=C3C(=CC=C2C(C1C#N)C=1C=NC=C(C1)C)N(CC3)C | C19H18N4O
